US05387710
A solution of ethyl (E)-3-(8-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yl)acrylate (400 mg) in ethanol (8 ml) was hydrogenated over 10% palladium on carbon (24 mg). After removing the catalyst, the solution was evaporated in vacuo and the residue was purified by column chromatography on silica gel with a mixture of n-hexane and ethyl acetate (10:1) as an eluent to give ethyl 3-(8-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yl)propionate (311 mg).

reactant | ethyl (E)-3-(8-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yl)acrylate | 400 mg | O=C1CCCC2=C(C1)C=C(C=C2)/C=C/C(=O)OCC | C16H18O3
solvent | ethanol | 8 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 24 mg | [Pd] | Pd
product | ethyl 3-(8-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yl)propionate | 311 mg | O=C1CCCC2=C(C1)C=C(C=C2)CCC(=O)OCC | C16H20O3
